US05362878
N-(Isoquinolin-5-yl)-2-(decyl)cyclopentane carboxamide
2-(Decyl)cyclopentane carboxylic acid, prepared according to the procedure of Hoefle, et. al. (U.S. Pat. No. 4,715,175), was coupled with 5-aminoisoquinoline according to the procedure outlined in Example 47 to give the title compound.

reactant | 2-(Decyl)cyclopentane carboxylic acid | C(CCCCCCCCC)C1C(CCC1)C(=O)O | C16H30O2
reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
product | N-(Isoquinolin-5-yl)-2-(decyl)cyclopentane carboxamide | C1=NC=CC2=C(C=CC=C12)NC(=O)C1C(CCC1)CCCCCCCCCC | C25H36N2O
